US06048885
Ethylene glycol (2 ml) and benzene (10 ml) were added to 2-(3-methylphenoxymethyl)-α-methoxyiminophenylacetonitrile (1.0 g, 3.6 mmol), 2-aminoethanol (400 mg, 6.6 mmol) and zinc acetate dihydrate (100 mg, 0.46 mmol), and the mixture was subjected to azeotropic dehydration and stirred at 100° C. for 20 hours. After allowing the mixture to stand for cooling, ethyl acetate was added to the reaction mixture. The mixture was washed successively with water and saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane) to give 2-(3-methylphenoxymethyl)phenyl 2-oxazolin-2-yl ketone O-methyloxime (280 mg,24%) as an oil.

reactant | Ethylene glycol | 2 ml | C(CO)O | C2H6O2
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | 2-(3-methylphenoxymethyl)-α-methoxyiminophenylacetonitrile | 3.6 mmol, 1.0 g | CC=1C=C(OCC2=C(C=CC=C2)C(C#N)=NOC)C=CC1 | C17H16N2O2
reactant | 2-aminoethanol | 6.6 mmol, 400 mg | NCCO | C2H7NO
catalyst | zinc acetate dihydrate | 0.46 mmol, 100 mg | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-methylphenoxymethyl)phenyl 2-oxazolin-2-yl ketone O-methyloxime | 280 mg, 24% | CON=C(C1=C(C=CC=C1)COC1=CC(=CC=C1)C)C=1OCCN1 | C19H20N2O3
